US06060469
3-Bromo-4-(2-fluoro)ethoxy Nitrobenzene
To a cooled (-78° C.) suspension of 3-Bromo-4-(2-hydroxy)ethoxy nitrobenzene (7.9 g, 30 mmol) in dichoromethane (80 ml) was added diethylaminosulphur trifluoride (3.88 ml, 31.5 mmol). The solution was stirred at ambient temperature for 2 hours, then quenched by the dropwise addition of water (100 ml). The organic layer was separated, washed with brine (100 ml), dried (MgSO4), and evaporated in vacuo. Purification on silica, eluting with 15%-20% ethyl acetate in hexane afforded the title compound as a yellow oil (1.2 g, 15%). 1H NMR (250 MHz, CDCl3) δ 4.35 (1H, dd, J=4.1 Hz, J=2.4 Hz), 4.45 (1H, dd, J=2.4 Hz, J=4.1 Hz), 4.75 (1H, dd, J=4 Hz, J=5.8 Hz), 4.95 (1H, dd, J=4 Hz, J=5.8 Hz), 6.98 (1H, d, J=9.1 Hz), 8.21 (1H, dd, J=2.7 Hz, J=9 Hz).

reactant | 3-Bromo-4-(2-hydroxy)ethoxy nitrobenzene | 30 mmol, 7.9 g | BrC=1C=C(C=CC1OCCO)[N+](=O)[O-] | C8H8BrNO4
reactant | diethylaminosulphur trifluoride | 31.5 mmol, 3.88 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichoromethane | 80 ml | ClCCl | CH2Cl2
product | 3-Bromo-4-(2-fluoro)ethoxy Nitrobenzene | 1.2 g, 15% | BrC=1C=C(C=CC1OCCF)[N+](=O)[O-] | C8H7BrFNO3
